US08530099B2
Synthesis of 2-(Methylsulfonyl)ethyl 2,2,-Difluoroacetate (FS-B)
In a dry box, 2-methylsulfonyl ethanol (6.8 g, 55 mol) in dichloromethane (20 mL) was added to a solution of difluoroacetic anhydride, obtained from SynQuest, Alachua, Fla., (13.0 g, 68 mmol) in dichloromethane, obtained from EMD, Gibbstown, N.J., (20 mL) at a temperature of 0 to 18° C. The resulting mixture was stirred for 3 h. After this time, the reaction was determined to be completed by NMR. The volatile solvent was removed by rotoevaporation. Then, the 2-(methylsulfonyl)ethyl 2,2-difluoroacetate product, also referred to herein as “FS-B” was purified by vacuum distillation and collected at 60 mtorr (8.0 Pa), 100° C. (10 g, 90% yield). The final product was analyzed by 1H NMR and 19F NMR.

reactant | 2-methylsulfonyl ethanol | 55 mol, 6.8 g | CS(=O)(=O)CCO | C3H8O3S
reactant | difluoroacetic anhydride | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(Methylsulfonyl)ethyl 2,2,-Difluoroacetate | 90% yield | FC(C(=O)OCCS(=O)(=O)C)F | C5H8F2O4S
